US07456164B2
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylic acid amide
4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile (400 mg, 1.27 mmol) was treated with polyphosphoric acid at 80° C. overnight. After allowing the mixture to cool to room temperature, ethyl acetate and water were added. The organic layer was separated. The aqueous layer was basified to pH 10 with concentrated NaOH and extracted with DCM. The combined organic extracts were dried over Na2SO4, filtered, concentrated in vacuo and purified by column chromatography on silica gel eluting to give the title compound (88 mg, 26%). 1H NMR (400 MHz, CDCl3) δ7.29 (d, 2H), 6.91 (d, 2H), 5.64-5.30 (d, 2H), 4.02 (t, 2H), 3.76 (t, 4H), 2.62 (t, 2H), 2.52 (m, 4H), 2.37-2.30 (m, 2H), 2.08-1.96 (m, 4H), 1.81-1.75 (m, 4H).

reactant | 4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile | 1.27 mmol, 400 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylic acid amide | 88 mg, 26% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(=O)N | C19H28N2O3
